US04987133
18.9 g of 1-(4-methyl-2-thiazolyl)-piperazine and 26 g of 5-(2-bromo-1-hydroxyethyl)-salicylamide (obtainable by acylation of salicyamide with bromoacetyl bromide/AlCl3 to give 5-bromoacetyl-salicylamide and subsequent reaction with NaBH4) are dissolved in 400 ml of ether, 15 ml of triethylamine are added, the mixture is boiled for 2 h and subjected to the usual working-up, and 5-[1-hydroxy-2-(4-(4-methyl-2-thiazolyl)-piperazino)-ethyl]salicylamide ("A"), m.p. 182°, is obtained. Dihydrochloride m.p. 244°-245°.

reactant | 1-(4-methyl-2-thiazolyl)-piperazine | 18.9 g | CC=1N=C(SC1)N1CCNCC1 | C8H13N3S
reactant | 5-(2-bromo-1-hydroxyethyl)-salicylamide | 26 g | BrCC(O)C1=CC=C(C(C(=O)N)=C1)O | C9H10BrNO3
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 400 ml | CCOCC | C4H10O
product | 5-[1-hydroxy-2-(4-(4-methyl-2-thiazolyl)-piperazino)-ethyl]salicylamide | OC(CN1CCN(CC1)C=1SC=C(N1)C)C1=CC=C(C(C(=O)N)=C1)O | C17H22N4O3S
